US09315507B2
To a solution of 1-bromoadamantane (3.25 g, 15.25 mmol) and potassium carbonate (1.05 g, 7.62 mmol) in 1-methoxy-2-methylbenzene (10 mL) was added 10 wt. % Pd/C (2.22 g) and stirred at 150° C. under nitrogen for 24 hours. The reaction mixture was cooled to room temperature and filtered. Solvent was evaporated under reduced pressure to afford a crude solid, which was purified by silica gel column chromatography to give 1-(4-methoxy-3-methylphenyl)adamantane as a white solid (4.9 g, 82.3% yield).

reactant | 1-bromoadamantane | 15.25 mmol, 3.25 g | BrC12CC3CC(CC(C1)C3)C2 | C10H15Br
reactant | potassium carbonate | 7.62 mmol, 1.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methoxy-2-methylbenzene | 10 mL | COC1=C(C=CC=C1)C | C8H10O
catalyst | Pd/C | 2.22 g | [Pd] | Pd
product | 1-(4-methoxy-3-methylphenyl)adamantane | 4.9 g, 82.3% yield | COC1=C(C=C(C=C1)C12CC3CC(CC(C1)C3)C2)C | C18H24O
